US07678815B2
Acetic acid 2-methyl-6-nitro-pyridin-3-yl ester (0.30 g, 1.53 mmol) was dissolved in ethanol. 10% Pd/C (0.04 g, 0.38 mmol) was added, and the mixture was put under an atmosphere of hydrogen and stirred vigorously for 50 min at room temperature. The catalyst was filtered off, washing with ethanol, and the solvent removed under vacuum to yield acetic acid 6-amino-2-methyl-pyridin-3-yl ester (0.24 g, 95%) as a white solid, MS (ISP): m/e=166.2 (M+), which was used crude.

reactant | Acetic acid 2-methyl-6-nitro-pyridin-3-yl ester | 1.53 mmol, 0.30 g | CC1=NC(=CC=C1OC(C)=O)[N+](=O)[O-] | C8H8N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.38 mmol, 0.04 g | [Pd] | Pd
product | acetic acid 6-amino-2-methyl-pyridin-3-yl ester | 0.24 g, 95% | NC1=CC=C(C(=N1)C)OC(C)=O | C8H10N2O2
